US04196132
The continuous oxidation involves a system of two container vessels for the reactants, a flow reactor, a quench reactor, and a scrubber. The FIGURE shows a laboratory arrangement as used for the Example below. Flask 1 is the storage for the tetrachlorocatechol slurry; flask 2 is the storage for concentrated nitric acid. Both flasks are cooled to between 0° C. and 5° C., e.g., by an icebath. Each flask is connected individually to the flow reactor 3 with pumps moving the reactants along at the desired rates. In reactor 3 (at between -2° and 6° C., with +2° to 5° C. preferred) the actual oxidation takes place giving o-chloranil.

reactant | tetrachlorocatechol | ClC=1C(=C(C(=C(C1O)O)Cl)Cl)Cl | C6H2Cl4O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | o-chloranil | C1(=C(C(=O)C(=O)C(=C1Cl)Cl)Cl)Cl | C6Cl4O2
